US04404137
Ethyl 3-(2-amino-4-trifluoromethylanilino)-1-methylpyrazole-4-carboxylate
Ethyl 1-methyl-3-(2-nitro-4-trifluoromethylanilino)pyrazole-4-carboxylate (9.2 g) was hydrogenated at 60 p.s.i. in a mixture of ethyl acetate (200 ml) and ethanol (50 ml) over 10% palladium on charcoal (1.0 g). The catalyst was removed by filtration, the solvent evaporated and the residue crystallised from carbon tetrachloride to give the title compound m.p. 162° C.

reactant | Ethyl 1-methyl-3-(2-nitro-4-trifluoromethylanilino)pyrazole-4-carboxylate | 9.2 g | CN1N=C(C(=C1)C(=O)OCC)NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C14H13F3N4O4
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
product | Ethyl 3-(2-amino-4-trifluoromethylanilino)-1-methylpyrazole-4-carboxylate | NC1=C(NC2=NN(C=C2C(=O)OCC)C)C=CC(=C1)C(F)(F)F | C14H15F3N4O2
